US04239901
To 2.51 g (10 mmoles) of 4-(4-chloropyrazol-1-yl) phenylglyoxylic acid in 20 ml of 1,2-dimethoxyethane there are added 1.5 g (30 mmoles) of hydrazine hydrate and, after 15 minutes, 1.34 g of potassium hydroxide. Heating to 150° C. is effected for one hour, followed by pouring on to ice water, extraction with diethyl ether, acidification of the aqueous phase, extraction again with ether, concentration of the ethereal phase; 4-(4-chloropyrazol-1-yl) phenylacetic acid is obtained as oil.

reactant | 4-(4-chloropyrazol-1-yl) phenylglyoxylic acid | 10 mmoles, 2.51 g | ClC=1C=NN(C1)C1=CC=C(C=C1)C(C(=O)O)=O | C11H7ClN2O3
reactant | hydrazine hydrate | 30 mmoles, 1.5 g | O.NN
reactant | potassium hydroxide | 1.34 g | [OH-].[K+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | ether | CCOCC | C4H10O
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
product | 4-(4-chloropyrazol-1-yl) phenylacetic acid | ClC=1C=NN(C1)C1=CC=C(C=C1)CC(=O)O | C11H9ClN2O2
